US07511066B2
A. 4-(Boc-amino)pyridine
To a stirring solution of 4-aminopyridine (15 g, 159 mmol) and triethylamine (24 mL, 175 mmol) in DMF (300 mL) was added di-t-butyl dicarbonate (38 g, 175 mmol). After stirring overnight, the solvent was removed in vacuo. The residue was dissolved in ethyl acetate (500 mL); and the solution was washed with satd aq sodium bicarbonate, water and then brine. The organic phase was then dried with MgSO4, filtered and concentrated in vacuo to a volume of about 100 mL. The mixture was then sonicated and the precipitate was filtered and dried in vacuo to give 9.52 g (31%) of the title compound. To the mother liquor was added about 50 g of silica gel and the mixture was concentrated in vacuo. The resulting dry pack was loaded onto a silica gel column prepared with a solution of 50% ethyl acetate in 5 hexanes and eluted with 20% ethyl acetate in dichloromethane, followed by a step gradient of 50% ethyl acetate in hexanes through ethyl acetate. The product containing fractions were combined and concentrated in vacuo to give another 16.16 g (52%) of the title compound.

reactant | 4-aminopyridine | 159 mmol, 15 g | NC1=CC=NC=C1 | C5H6N2
reactant | triethylamine | 175 mmol, 24 mL | C(C)N(CC)CC | C6H15N
reactant | di-t-butyl dicarbonate | 175 mmol, 38 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | DMF | 300 mL | CN(C)C=O | C3H7NO
product | 4-(Boc-amino)pyridine | 9.52 g, 31% | C(=O)(OC(C)(C)C)NC1=CC=NC=C1 | C10H14N2O2
